US08357693B2
To tert-butyl 5-(2-(3-(3-benzylureido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (30 mg, 0.051 mmol) was added a solution of 1:1 TFA:CH2Cl2 (2 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and left under high vacuum for several hours. The crude product was triturated with ethyl ether to afford 14344-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-3-benzylurea. (25 mg, 100%)

reactant | tert-butyl 5-(2-(3-(3-benzylureido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.051 mmol, 30 mg | C(C1=CC=CC=C1)NC(NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)=O | C34H31N7O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-benzylurea | C(C1=CC=CC=C1)NC(N)=O | C8H10N2O
